Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
status post ___
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old male who was a restrained driver in ___ after rear 
ending another vehicle @ moderate speed presenting complaining 
of chest pain with respiration, right knee and posterior neck 
pain.
 
Past Medical History:
crohns, splenectomy, hip surgery, MI X 3, MRSA
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Discharge Physical Exam:
VS: T: 97.4, BP: 107/62, HR: 68, RR: 18, O2: 98% RA
NAD
EWOB, CTAB
RRR
AB soft, NT, ND, NBS
Neuro grossly intact
 
Pertinent Results:
___ 01:44PM BLOOD freeCa-1.13
___ 01:44PM BLOOD Hgb-14.2 calcHCT-43 O2 Sat-71 COHgb-2
___ 01:44PM BLOOD Glucose-75 Lactate-1.4 Na-139 K-3.6 
Cl-103 calHCO3-26
___ 01:44PM BLOOD ___ pH-7.31* Comment-GREEN TOP 
___ 01:22PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:45AM BLOOD Calcium-9.0 Phos-4.7* Mg-2.1
___ 01:22PM BLOOD Lipase-35
___ 01:22PM BLOOD UreaN-12 Creat-1.3*
___:45AM BLOOD Glucose-84 UreaN-15 Creat-1.3* Na-137 
K-3.9 Cl-103 HCO3-26 AnGap-12
___ 01:22PM BLOOD ___ 01:22PM BLOOD ___ PTT-30.9 ___
___ 01:22PM BLOOD Plt ___
___ 07:59PM BLOOD Plt ___
___ 04:45AM BLOOD Plt ___
___ 01:22PM BLOOD WBC-7.9 RBC-4.40* Hgb-13.7 Hct-41.5 
MCV-94 MCH-31.1 MCHC-33.0 RDW-14.7 RDWSD-50.6* Plt ___
___ 07:59PM BLOOD WBC-10.6* RBC-4.25* Hgb-12.8* Hct-39.7* 
MCV-93 MCH-30.1 MCHC-32.2 RDW-14.8 RDWSD-50.5* Plt ___
___ 04:45AM BLOOD WBC-7.5 RBC-4.21* Hgb-12.7* Hct-39.5* 
MCV-94 MCH-30.2 MCHC-32.2 RDW-14.9 RDWSD-51.2* Plt ___

___ CT Head:
IMPRESSION: 
No acute intracranial process.

___ CT chest w contrast:
1. Incomplete fracture of the anterior right fourth through 
seventh, and possibly eighth ribs.  No pneumothorax.
2. Multiple prior abdominal surgeries with multiple anastomoses 
seen in the abdomen and pelvis, with the bowel difficult to 
trace at some points.  No bowel obstruction.  Haziness of the 
mesentery in several locations, in the setting of trauma, 
mesenteric injury is not excluded.  Findings could also relate 
to prior surgery and history of Crohn's disease.  Comparison 
with prior studies would be helpful for further evaluation.
3. Status post splenectomy with splenosis seen.
4. Old left greater trochanteric fracture/soft tissue 
ossification.
5. 1.5 x 2.0 cm low density area in the AP window may represent 
a lymph node or extension of pericardial recess fluid.  
Correlation with prior imaging would be helpful.

___ CT c spine:
1. No acute fracture or malalignment.
2. Mild degenerative changes of the cervical spine.

___ R knee:
No acute fracture or dislocation.

___ Hip:
No acute fracture or dislocation.  Left significantly greater 
than right, bilateral hip osteoarthritic changes.
 
Brief Hospital Course:
The patient presented to the Emergency Department for evaluation 
after ___ on ___. Upon arrival to ED, he was evaluated by 
the ACS service and admitted to the floor for further treatment.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV and then 
transitioned to oral medication once tolerating a diet.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO, therefore, the 
diet was advanced sequentially to a regular diet, which was well 
tolerated at day of discharge. Patient's intake and output were 
closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay and was encouraged to 
get up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan on ___.

 
Medications on Admission:
1. ClonazePAM 1 mg PO TID 
2. Venlafaxine 75 mg PO BID 
3. LaMOTrigine 200 mg PO QHS 
4. Mirtazapine 15 mg PO QHS 
5. LOPERamide Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. ClonazePAM 1 mg PO TID 
2. Venlafaxine 75 mg PO BID 
3. LaMOTrigine 200 mg PO QHS 
4. LOPERamide 2 mg PO TID 
5. Mirtazapine 15 mg PO QHS 
6. Acetaminophen 500 mg PO Q8H 
Do not exceed 3 grams daily 
7. OxycoDONE Liquid ___ mg PO Q4H:PRN Pain 
Do not drive or use machinery when taking 
RX *oxycodone 5 mg/5 mL ___ mL by mouth every four (4) hours 
Refills:*0
8. Simethicone 40-80 mg PO QID:PRN Heart burn, gas pain 
RX *simethicone 80 mg ___ tablet by mouth four times a day 
Disp #*30 Tablet Refills:*0
9. Docusate Sodium 100 mg PO BID 
Do not take if having diarrhea 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
10. Senna 8.6 mg PO BID:PRN constipation 
Do not take if having diarrhea 
RX *sennosides [senna] 8.6 mg 1 Capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incomplete fracture of the anterior right fourth through 
seventh, and possibly eighth ribs. No pneumothorax.
 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
 
Discharge Instructions:
Dear ___,

You were admitted to ___ and 
underwent evaluation after a motor vehicle accident. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___